US06545009B1
A mixture of ethyl 4-[2-(4-trifluoromethylbenzoylamino)-1-oxoethyl]benzoate (900 mg), Lawesson's reagent (960 mg) and xylene (5 ml) was stirred at 140 t 145° C. for 2 hours. The reaction mixture was cooled, and precipitated crystals of ethyl 4-[2-(4-trifluoromethylphenyl)-5-thiazolyl]benzoate (378 mg, yield: 43%) were collected by filtration. The product was recrystallized from xylene-isopropyl ether to obtain pale yellow prisms. Melting point: 174 to 176° C.

reactant | ethyl 4-[2-(4-trifluoromethylbenzoylamino)-1-oxoethyl]benzoate | 900 mg | FC(C1=CC=C(C(=O)NCC(=O)C2=CC=C(C(=O)OCC)C=C2)C=C1)(F)F | C19H16F3NO4
reactant | Lawesson's reagent | 960 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | xylene | 5 ml | C=1(C(=CC=CC1)C)C | C8H10
product | ethyl 4-[2-(4-trifluoromethylphenyl)-5-thiazolyl]benzoate | 378 mg, yield: 43% | FC(C1=CC=C(C=C1)C=1SC(=CN1)C1=CC=C(C(=O)OCC)C=C1)(F)F | C19H14F3NO2S
